US07015320B2
This example describes the preparation of I where n=1 and R1=p-fluorophenyl. In a nitrogen-filled glove box, a Fisher-Porter tube was charged with iridium catalyst prepared as in Example 1 (10 mg, 0.012 mmol) and 3-(p-fluorobenzylidene)-2-pyrrolidinone (250 mg, 1.3 mmol). Methanol (3 mL) and dichloromethane (3 mL) were added and the system was flushed 4 times with hydrogen and pressured to 60 psi (0.5 MPa) H2. After 18 h the reaction mixture was filtered through a short pad of silica. The solvent was removed at reduced pressure to afford 3-p-fluorobenzyl-2-pyrrolidinone (250 mg, 100%) as a white crystalline solid. Chiral HPLC analysis (Chiralpak OD, 95% heptane, 4.9% isopropanol, 0.05% trifluoroacetic acid, 0.05% n-hexylamine, 40° C.) indicated that conversion was 100% and the enantiomeric excess was 88%. 19F NMR δ −117.39; 13C NMR δ 26.92, 35.90, 40.44, 42.88, 115.44 (d, J=21 Hz), 130.58, 135.21, 161.77 (d, J=241 Hz), 179.72; 1H NMR: δ 1.83 (m, 1H), 2.15 (m, 1H), 2.66 (m, 2H), 3.11-3.32 (m. 3H), 6.47 (br s, 1H), 7.00 (m, 2H), 7.15 (m, 2H).

reactant | 3-(p-fluorobenzylidene)-2-pyrrolidinone | 1.3 mmol, 250 mg | FC1=CC=C(C=C2C(NCC2)=O)C=C1 | C11H10FNO
reactant | Methanol | 3 mL | CO | CH4O
catalyst | iridium | [Ir] | Ir
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-p-fluorobenzyl-2-pyrrolidinone | 250 mg, 100% | FC1=CC=C(CC2C(NCC2)=O)C=C1 | C11H12FNO
